US06046201
12-Aminododecanol hydrochloride
To a suspension of 5.0 g of tert-butyl N-(12-hydroxydodecyl)carbamate in 25 ml of methanol was added 3 ml of hydrochloric acid and the mixture was heated under reflux for one hour. The reaction solution was distilled off under reduced pressure, ethyl acetate was added to the residue, the crystal thus precipitated out was recovered by filtration and dried under reduced pressure to afford 3.23 g of the title compound.

reactant | tert-butyl N-(12-hydroxydodecyl)carbamate | 5.0 g | OCCCCCCCCCCCCNC(OC(C)(C)C)=O | C17H35NO3
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
product | 12-Aminododecanol hydrochloride | 3.23 g | Cl.NCCCCCCCCCCCCO | InChI=1S/C12H27NO.ClH/c13-11-9-7-5-3-1-2-4-6-8-10-12-14;/h14H,1-13H2;1H
